*  Sonnet Data File
*  From: em Version : 16.56
*  From Project: cir_normp__er70_1030
*  Data is De-embedded 
*  Data File Written: 09/18/2021 15:45:53
* < HDATE 08/23/2021 03:48:50
* < MDATE 09/18/2021 15:40:34
*  Spice Data
* Limits: C>0.01pF L<0.0nH R<1000.0Ohms K>0.0
    *  Analysis frequencies: 1.0, 10.0 MHz
.subckt cir_normp__er70_1030_0 1 2 REF
C_C1 1 REF 128.6502pf
C_C2 1 2 49.21915pf
C_C3 2 REF 128.3484pf
.ends cir_normp__er70_1030_0

    *  Analysis frequencies: 10.0, 20.0 MHz
.subckt cir_normp__er70_1030_1 1 2 REF
C_C1 1 REF 129.7125pf
C_C2 1 2 51.20052pf
C_C3 2 REF 129.3601pf
.ends cir_normp__er70_1030_1

    *  Analysis frequencies: 20.0, 30.0 MHz
.subckt cir_normp__er70_1030_2 1 2 REF
C_C1 1 REF 131.8999pf
C_C2 1 2 55.5535pf
C_C3 2 REF 131.4423pf
.ends cir_normp__er70_1030_2

